US06498169B1
Synthesis of 4-[N-(4-Methoxyphenyl)-N-[[5-(3,4,5-trimethoxyphenyl)pyridin-3-yl]methyl]amino]-1-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]piperidine Trihydrochloride
4-(p-Anisidino)-1-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]piperidine (139 mg) and 3-chloromethyl-5-(3,4,5-trimethoxyphenyl)pyridine (114 mg) were condensed by the same manner as described in Example 9. Yellow oil of a free base was converted to a trihydrochloride which gave the title compound as yellow powder.

reactant | 4-(p-Anisidino)-1-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]piperidine | 139 mg | COC1=CC=C(C=C1)NC1CCN(CC1)CC1=CC(=NC=C1)C1=CC(=C(C(=C1)OC)OC)OC | C27H33N3O4
reactant | 3-chloromethyl-5-(3,4,5-trimethoxyphenyl)pyridine | 114 mg | ClCC=1C=NC=C(C1)C1=CC(=C(C(=C1)OC)OC)OC | C15H16ClNO3
product | 4-[N-(4-Methoxyphenyl)-N-[[5-(3,4,5-trimethoxyphenyl)pyridin-3-yl]methyl]amino]-1-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]piperidine Trihydrochloride | Cl.Cl.Cl.COC1=CC=C(C=C1)N(CC=1C=NC=C(C1)C1=CC(=C(C(=C1)OC)OC)OC)C1CCN(CC1)CC1=CC(=NC=C1)C1=CC(=C(C(=C1)OC)OC)OC | InChI=1S/C42H48N4O7.3ClH/c1-47-35-10-8-33(9-11-35)46(27-29-18-32(25-43-24-29)30-20-37(48-2)41(52-6)38(21-30)49-3)34-13-16-45(17-14-34)26-28-12-15-44-36(19-28)31-22-39(50-4)42(53-7)40(23-31)51-5;;;/h8-12,15,18-25,34H,13-14,16-17,26-27H2,1-7H3;3*1H
